US07323475B2
(S)-2-[(7-Isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino-propionic acid
Analogously to Example A-56, 0.040 g of 7-isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid were allowed to react with 0.020 g of L-Alanine methyl ester hydrochloride to give, after hydrolysis of the intermediate ester, 0.047 g of a white solid: MS-(−)-ion, M−1=353.1 amu.

reactant | 7-isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid | 0.040 g | C(C)(C)OC1=CC=C2C(=C(N=C(C2=C1)Cl)C(=O)O)O | C13H12ClNO4
reactant | L-Alanine methyl ester hydrochloride | 0.020 g | Cl.COC([C@@H](N)C)=O
product | (7-Isopropoxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino-propionic acid | C(C)(C)OC1=CC=C2C(=C(N=C(C2=C1)Cl)C(=O)C(C(=O)O)(C)N)O | C16H17ClN2O5
